US03966705
It is therefore possible, for example, to first acylate a diaminobenzenesulphonic acid with cyanuric chloride, to diazotise the resultant intermediate and to couple it in acid solution to the 1-amino-8-hydroxynaphthalene-3,6-disulphonic acid, to condense the resultant monoazo compound in twice the molar amount with a diaminobenzene and to couple two moles of a diazotised aminobenzenesulphonic acid to the disazo compound which has been formed.

reactant | diaminobenzenesulphonic acid | NC=1C(=C(C=CC1)S(=O)(=O)O)N | C6H8N2O3S
reactant | cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 1-amino-8-hydroxynaphthalene-3,6-disulphonic acid | NC1=CC(=CC2=CC(=CC(=C12)O)S(=O)(=O)O)S(=O)(=O)O | C10H9NO7S2
reactant | diaminobenzene | NC1=C(C=CC=C1)N | C6H8N2
product | aminobenzenesulphonic acid | two moles | NC1=C(C=CC=C1)S(=O)(=O)O | C6H7NO3S
